US07119104B2
(1) 6-Acetamido-3-[2-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]ethyl]-1,2-benzisoxazole
6-Acetamido-3-methyl-1,2-benzisoxazole (571 mg, 3.00 mmol) was dissolved in dry THF (18 mL). 2M of LDA (3.1 mL, 6.2 mmol) was dropwise added to the solution for 10 minutes under nitrogen atmosphere at −78° C. A solution of 4-iodomethyl-5-isopropyl-2-(2,4-dichlorophenyl)oxazole (1.19 g, 3.00 mmol) in THF (3.0 mL) was dropwise added to the resulting mixture for 7 minutes. The mixture was stirred for 1 hour under the same conditions. The mixture was allowed to room temperature. A saturated aqueous ammonium chloride solution and ethyl acetate were added to the mixture. The organic layer was washed with water and saline, and dried over anhydrous sodium sulfate. Ethyl acetate was removed under reduced pressure. The residue was purified by column chromatography on silica gel with chloroform/methanol (80/1) to give the desired compound (904 mg) as pale yellow oil (yield 70%).

reactant | 6-Acetamido-3-methyl-1,2-benzisoxazole | 3.00 mmol, 571 mg | C(C)(=O)NC1=CC2=C(C(=NO2)C)C=C1 | C10H10N2O2
reactant | LDA | 6.2 mmol, 2M, 3.1 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-iodomethyl-5-isopropyl-2-(2,4-dichlorophenyl)oxazole | 3.00 mmol, 1.19 g | ICC=1N=C(OC1C(C)C)C1=C(C=C(C=C1)Cl)Cl | C13H12Cl2INO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Acetamido-3-[2-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]ethyl]-1,2-benzisoxazole | 904 mg, yield 70% | C(C)(=O)NC1=CC2=C(C(=NO2)CCC=2N=C(OC2C(C)C)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C23H21Cl2N3O3
